US07326791B2
rac.-N-{1-[6-chloro-1-(methoxycarbonylmethyl)-1H-benzimidazol-2-yl]-2-(4-methoxy-carbonylmethoxyphenyl)ethyl}-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 6b from N-[1-(6-chloro-1H-benzimidazol-2-yl)-2-(4-hydroxyphenyl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide, methyl bromoacetate, and potassium carbonate in dimethylformamide. Yield: 17%; Rf value: 0.65 (silica gel; dichloromethane/ethanol=19:1); C34H35ClN4O7 (647.13); mass spectrum: (M+H)+=647/649 (chlorine isotope).

reactant | N-[1-(6-chloro-1H-benzimidazol-2-yl)-2-(4-hydroxyphenyl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | ClC=1C=CC2=C(NC(=N2)C(CC2=CC=C(C=C2)O)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C1 | C28H27ClN4O3
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | chlorine | ClCl | Cl2
reactant | dichloromethane ethanol | ClCCl.C(C)O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | rac.-N-{1-[6-chloro-1-(methoxycarbonylmethyl)-1H-benzimidazol-2-yl]-2-(4-methoxy-carbonylmethoxyphenyl)ethyl}-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 17% | ClC=1C=CC2=C(N(C(=N2)C(CC2=C(C=C(C=C2)OC)OC=C=O)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)CC(=O)OC)C1 | C34H33ClN4O7
